* C:\Users\user\Desktop\GIU\ENG4\Electronics\Power-control-by-IR-remote\ltc.asc
XU1 0 POT OUT VCC N004 POT DIS VCC NE555
V1 VCC 0 9
R1 VCC DIS 120
R2 N003 POT 1
R3 POT N002 5k
D1 DIS N003 D
D2 N002 DIS D
C1 POT 0 1µ
C2 0 N004 100n
XU2 VCC OUT N001 BTA12-600B BTA12-600B
R4 N001 0 440
.model D D
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib C:\Users\user\Downloads\Libraries\st_standard_snubberless_triacs.lib
.tran 20m
.lib NE555.sub
.backanno
.end
